Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Effexor
 
Attending: ___.
 
Chief Complaint:
Amnesia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: The patient is a ___ previously healthy female who 
presents
with acute onset amnesia on day of presentation.  In the setting
of three days of L tooth pain, she went to see her dentist
urgently today twice, during which she developed acute onset
amnesia regarding her location, activity and all of the day's
events.  She was picked up by her husband and brought to the ED. 


   She remembers some events of last evening, including going to
a concert with her family, though does not remember eating.  She
does not remember waking up this morning, eating, driving to the
dentist's twice, or how she got to ___ ED.
   She endorses mild lightheadedness.  She has left tooth pain.
   According to ED communication with Dentist Dr. ___
(___), she called the dental office in AM with
toothache. At 1pm she was noted to have a periapical abscess.
Local anesthesia was administered at tooth 15. Plan for 
pulpotomy
for relief of pain. Tooth was necrotic. Procedure was completed
successfully. Plan was to finish root canal in several weeks. Pt
seemed perfectly normal during procedure. Pt called back before
3pm, endodontist started root canal, administered more local,
instrumented canal. Patient sat up, felt faint, stated "I don't
recall wearing clothes this morning, Why am I here? What day is
it? I don't remember seeing Dr. ___ earlier in day." The
patient didn't remember symptoms of pain during weekend. Loss of
memory began as soon as he removed the rubber dam from her root
canal procedure at 5pm.

 On neurologic review of systems, the patient denies headache.
Denies difficulty with producing or comprehending speech. Denies
loss of vision, blurred vision, diplopia, vertigo, tinnitus,
hearing difficulty, dysarthria, or dysphagia. Denies focal 
muscle
weakness, numbness, parasthesia. Denies loss of sensation. 
Denies
bowel or bladder incontinence or retention. Denies difficulty
with gait.  
 
On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain. No recent change in
bowel or bladder habits. Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.  

 
Past Medical History:
Hx of RUE DVT s/p anticoagulation about ___ years ago
Hx of ankle hematoma while on anticoagulation
Anemia
Hx of heart murmur, on amoxicillin ppx prior to dental surgery
Allergic rhinitis
Hx of small bowel overgrowth
No previous surgeries
 
Social History:
___
Family History:
Extended family history of CAD.  Grandmother with hx of stroke.
 
Physical Exam:
==============
ADMISSION EXAM
==============

Vitals: T: 97.8 HR: 67 BP: 135/78 RR: 18 SaO2: 99% RA  
 General: NAD  
 HEENT: mild L facial swelling with less well defined cheek
border on L, neck supple  
 ___: RRR  
 Pulmonary: No nasal flaring, retractions or increased work of
breathing  
 Abdomen: Soft, nondistended  
 Extremities: Warm, no edema  
 Neurologic Examination:  
 Awake, alert, oriented x 2(person, year, not month or 
location).
Attentive, able to name ___ backward without difficulty. Speech
is fluent with full sentences, intact repetition, and intact
verbal comprehension. Naming intact. No paraphasias. No
dysarthria. Normal prosody.  Unable to recall current president
candidates, with cue ___ was able to recall Trump. 
Recalls previous presidents accurately through ___,
recalls daughters, name, age, DOB and information about bosses 
at
work, but NOT current ligitation cases.   Intact registration of
___ objects, at 45 minutes, remembers 2 of 3 with phonemic cues. 

Does not recall events from today.  No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands.  
 
 - Cranial Nerves - PERRL 3->2 brisk. EOMI, no nystagmus. V1-V3
without deficits to light touch bilaterally. No facial movement
asymmetry. Hearing intact to finger rub bilaterally. Palate
elevation symmetric. SCM/Trapezius strength ___ bilaterally.
Tongue midline.  
 - Motor - Normal bulk and tone. No drift. No tremor or
asterixis.  
  [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]  
  [C5]   [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]  
 L 5      5     5     5     5     5     5     5    5  
 R 5      5     5     5     5     5     5     5    5  
 - Sensory - No deficits to light touch or proprioception
bilaterally. No extinction to DSS.  
 -DTRs:  
  [Bic] [Tri] [___] [Quad]  
 L 2+    2+    2+      2+  
 R 2+    2+    2+      2+  
 Plantar response flexor bilaterally.  
 - Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.  
 - Gait - Normal initiation. Narrow base. Normal stride length
and arm swing. Stable without sway. Negative Romberg.  

==============
DISCHARGE EXAM
==============
Essentially unchanged except now normal mental status with 
intact recall of current events and recent personal history. 

 
Pertinent Results:
====
LABS
====

___ 07:25AM BLOOD WBC-6.8 RBC-4.08 Hgb-12.3 Hct-35.9 MCV-88 
MCH-30.1 MCHC-34.3 RDW-12.7 RDWSD-40.3 Plt ___
___ 06:40PM BLOOD WBC-11.5*# RBC-4.48 Hgb-13.1 Hct-38.7 
MCV-86 MCH-29.2 MCHC-33.9 RDW-12.5 RDWSD-39.2 Plt ___
___:25AM BLOOD Neuts-62.0 ___ Monos-10.5 Eos-1.5 
Baso-0.6 Im ___ AbsNeut-4.20# AbsLymp-1.70 AbsMono-0.71 
AbsEos-0.10 AbsBaso-0.04
___ 06:40PM BLOOD Neuts-85.3* Lymphs-7.9* Monos-6.2 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-9.78* AbsLymp-0.91* 
AbsMono-0.71 AbsEos-0.00* AbsBaso-0.03
___ 07:25AM BLOOD ___ PTT-29.0 ___
___ 07:25AM BLOOD Glucose-90 UreaN-15 Creat-0.8 Na-144 
K-4.0 Cl-104 HCO3-24 AnGap-20
___ 06:40PM BLOOD Glucose-91 UreaN-14 Creat-0.7 Na-142 
K-3.3 Cl-101 HCO3-24 AnGap-20
___ 07:25AM BLOOD ALT-12 AST-16 LD(LDH)-160 CK(CPK)-78 
AlkPhos-86 TotBili-1.4
___ 07:25AM BLOOD GGT-28
___ 07:25AM BLOOD TotProt-6.6 Albumin-4.3 Globuln-2.3 
Cholest-186
___ 07:25AM BLOOD %HbA1c-5.2 eAG-103
___ 07:25AM BLOOD Triglyc-54 HDL-72 CHOL/HD-2.6 LDLcalc-103
___ 07:25AM BLOOD TSH-1.3
___ 07:25AM BLOOD CRP-14.3*
___ 07:25AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-5* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

=======
IMAGING
=======
- MRI Head WO Contrast (___)
1.  No evidence of hemorrhage, edema, mass, mass effect, or 
acute infarction. 
2.  Unremarkable head and neck MRA. 
3.  Left maxillary and ethmoid sinus disease. 

===
EEG
===
Negative. Final report pending. 
 
Brief Hospital Course:
Ms. ___ presented with symptoms of transient global amnesia 
in the context of severe dental pain and two dental procedures 
with only local anesthetic. She was worked-up for stroke and 
seizure; MRI and EEG were negative and her symptoms resolved by 
the following morning. We started her on aspirin 81mg since we 
cannot definitively rule-out TIA (though we think this is highly 
unlikely). She will follow-up with neurology in ___ months. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 14 
Doses  
2.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Global Amnesia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,  
You were hospitalized due to symptoms of TRANSIENT GLOBAL 
AMNESIA. This can occur due to seizure, stroke, migraine, or 
stress/pain. We did not find any evidence of stroke -- your MRI 
was normal. We did not find any evidence of seizure as your EEG 
was also normal. Given the severe pain you were having from your 
dental problem, a stress reaction seems most likely, however we 
cannot definitively rule-out a TRANSIENT ISCHEMIC ATTACK (or 
TIA). A TIA is temporary blockage of blood flow that resolves 
and does not lead to stroke but only temporary stroke-like 
symptoms. This is highly unlikely to cause the type of symptoms 
you had in isolation, but we cannot rule it out, so we will 
recommend you start low-dose aspirin as a form of primary 
prevention (this is also a preventative medication for coronary 
artery disease as well). 

We are changing your medications as follows:  
- START aspirin 81mg DAILY. This is an over-the-counter 
medication. 

Please follow-up your primary care physician as listed below.
  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Thank you, 
Your ___ Neurology Team

 
Followup Instructions:
___